US07176242B2
Step 1: Methyl 4-butyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate
To an ice-cold, stirred solution of methyl 3-amino-4-hydroxybenzoate (3.0 g) and sodium bicarbonate (3.3 g) in 1:1 isobutyl methyl ketone/water (40 mL) was added chloroacetyl chloride (1.7 mL), and the mixture was stirred for 1 h. The mixture was warmed to room temperature and refluxed for 14 h, cooled to room temperature, diluted with chloroform, and separated. The organic layer was washed with water, and brine, dried (magnesium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 1:9 methanol/chloroform) afforded a phenoxazine 3.2 g as a white solid, which was used without further purification or characterization. To a solution of phenoxazine from step 1 (700 mg) and potassium carbonate (934 mg) in methanol (8 mL) was added bromobutane (1.8 mL), and the mixture was refluxed for 6 d. The mixture was cooled to room temperature, concentrated under reduced pressure, and the residue was partitioned between ethyl acetate and water. The organic layer washed with brine, dried (magnesium sulfate), filtered, and concentrated under reduced pressure to afforded 800 mg of the title compound: 1H NMR (300 MHz, CDCl3) δ 7.72–7.68, 7.02–6.99, 4.66, 4.00–3.92, 1.69–1.64, 1.46–1.38, 1.01–0.95.

reactant | methyl 3-amino-4-hydroxybenzoate | 3.0 g | NC=1C=C(C(=O)OC)C=CC1O | C8H9NO3
reactant | sodium bicarbonate | 3.3 g | C([O-])(O)=O.[Na+]
reactant | isobutyl methyl ketone water | 40 mL | CC(=O)CC(C)C.O
reactant | chloroacetyl chloride | 1.7 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Methyl 4-butyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate | 3.2 g | C(CCC)N1C(COC2=C1C=C(C=C2)C(=O)OC)=O | C14H17NO4
